US07148226B2
6-[2-(4-Acetyl-3-chloro-phenyl)-ethyl]-6-cyclopentyl-3-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4-hydroxy-5,6-dihydro-pyran-2-one
The title compound was prepared in the following way: Example B(122) 6-{2-[3-Chloro-4-(2-methyl-[1,3]dioxolan-2-yl)-phenyl]-ethyl}-6-cyclopentyl-3-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4-hydroxy-5,6-dihydro-pyran-2-one (0.138 g, 0.24 mmol), was dissolved in acetone (8 mL). Amberlyst-13 (0.23 g) was added from top and reaction was stirred under nitrogen for 72 hours at room temperature. The resulting reaction mixture was filtered through fritted funnel to remove the amberlyst and the resultant filtrate was diluted with EtOAC and washed with water (10 mL) and brine (10 mL) then dried over Na2SO4, filtered and concentrated. The resultant solid was recrystallized from MeOH to yield the product as a white solid (0.05 g, 41%). 1H NMR (400 MHz, DMSO-d6): δ 1.5–1.7 (m, 9H) 2.20–2.22 (m, 2H), 2.49–2.90 (m, 10H), 3.39 (s, 3H), 3.78 (d, J=16 Hz, 1H), 3.90 (d, J=16 Hz, 1H), 7.13 (s, 1H), 7.32 (s, 1H), 7.36 (d, J=8 Hz, 1H), 7.61 (d, J=8 Hz, 1H), 10.9 (s, 1H). MS (ESI): 523 (M+H)+.

reactant | 6-{2-[3-Chloro-4-(2-methyl-[1,3]dioxolan-2-yl)-phenyl]-ethyl}-6-cyclopentyl-3-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4-hydroxy-5,6-dihydro-pyran-2-one | 0.24 mmol, 0.138 g | ClC=1C=C(C=CC1C1(OCCO1)C)CCC1(CC(=C(C(O1)=O)CC1=NN2C(N=C(C=C2C)C)=N1)O)C1CCCC1 | C30H35ClN4O5
solvent | acetone | 8 mL | CC(=O)C | C3H6O
product | 6-[2-(4-Acetyl-3-chloro-phenyl)-ethyl]-6-cyclopentyl-3-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4-hydroxy-5,6-dihydro-pyran-2-one | C(C)(=O)C1=C(C=C(C=C1)CCC1(CC(=C(C(O1)=O)CC1=NN2C(N=C(C=C2C)C)=N1)O)C1CCCC1)Cl | C28H31ClN4O4
